Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@:2]1([H:3])[O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.0029733146
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.55846186747
[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.91162062932
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.44718518933
[C:3]([H:4])=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.11195532541
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-4.32824464775
[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],-2.7625417129
[H:1][C:2]([H:3])/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:12](\[C:10](=[O:9])[H:11])[H:13]>>[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])=[C:12]1[H:13],0.898524688379
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],2.8457423390900005
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7](=[O:8])[H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[O:8])[H:9],1.17513254759
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8][H:9],5.12992395231
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8]>>[C:5]([H:6])[O:7][H:8].[H:1][C:2]#[C:3][O:4],1.95963551233
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-2.83099366477
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],2.49473618789
[C:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7])[O:8][H:9]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([C:6]#[C:7])[O:8][H:9],1.17155079956
[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-0.940004560002
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2],6.20794134331
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2],7.64392042497
[H:1].[O:2]=[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.7302251379099998
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8],-3.91948078456
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12].[O:1],4.112755272119999
[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.298223242
[C:5]#[C:6][H:7].[H:1][C:2][O:3][C:4][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.33793999472
[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-1.5072750135100002
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2]([H:3])/[C:4]=[C:6](/[O:7][H:8])[C:9]([H:10])([H:11])[H:12],5.02389778739
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-1.6620623949000002
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[O:9],3.5558685994
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[C:7]([H:8])[O:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.2235602130000003
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],0.937760069531
